US08440666B2
To rac-2-[(methoxymethoxy)methyl]-6,6-dimethylbicyclo[3.1.1]hept-2-ene (3.00 g, 15.3 mmol) in tetrahydrofuran (25 mL), a borane-tetrahydrofuran complex (0.99 M in tetrahydrofuran, 12 mL) was added gradually dropwise at 0° C., and then the resulting reaction solution was warmed to room temperature and stirred for 1 days. The reaction solution was cooled to 0° C., and 28 mass % aqueous ammonia (2 mL) and about 8 mass % aqueous sodium hypochlorite (28 g) were added gradually dropwise successively. The reaction solution was warmed to room temperature and stirred for 1 day. After completion of the reaction, the reaction solution was mixed with 1 M aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate=10/1→4/1) to give rac-2-[(methoxymethoxy)methyl]-6,6-dimethylbicyclo[3.1.1]heptan-3-ol.

reactant | rac-2-[(methoxymethoxy)methyl]-6,6-dimethylbicyclo[3.1.1]hept-2-ene | 15.3 mmol, 3.00 g | COCOCC=1C2C(C(CC1)C2)(C)C | C12H20O2
reactant | borane tetrahydrofuran | 0.99 M, 12 mL | B.O1CCCC1
reactant | ammonia | 2 mL | N | H3N
reactant | sodium hypochlorite | 28 g | Cl[O-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | rac-2-[(methoxymethoxy)methyl]-6,6-dimethylbicyclo[3.1.1]heptan-3-ol | COCOCC1C2C(C(CC1O)C2)(C)C | C12H22O3
